US06265421B1
a) 3-Cyclopentyl-5,7-dihydroxy-4-methyl-2H-1-benzopyran-2-one
A solution of phloroglucinol (2.00 g) and ethyl 2-cyclopentylacetoacetate (3.14 g) in ethanol (40 ml) was treated with dry HCl at 0° C. for 2.5 hours and the solution kept at that temperature overnight. Solvent was evaporated and the precipitate purified with flash chromatography eluting with toluene-EtOAc-AcOH (8:1:1). Yield 1.22 g (29%).

reactant | phloroglucinol | 2.00 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | ethyl 2-cyclopentylacetoacetate | 3.14 g | C1(CCCC1)C(C(=O)OCC)C(=O)C | C11H18O3
reactant | HCl | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-Cyclopentyl-5,7-dihydroxy-4-methyl-2H-1-benzopyran-2-one | C1(CCCC1)C=1C(OC2=C(C1C)C(=CC(=C2)O)O)=O | C15H16O4
